US04670044
24 ml (0.33 mole) of thionyl chloride are added dropwise to 30 g (0.09 mole) of 5-(3-carboxyphenyl)-1-methyl-3-(pyrazol-1-yl)-4-pyridone-sulphuric acid adduct in 100 ml of methanol at 0° C. to 10° C.; when the addition has ended, the mixture is stirred at room temperature for 12 hours and concentrated in vacuo, the oil which remains is taken up in 100 ml of water and the mixture is rendered weakly alkaline with aqueous sodium carbonate solution and extracted three times with 100 ml of methylene chloride each time. The combined organic phases are washed with water, dried over sodium sulphate and concentrated in vacuo. The crystals which remain are digested with ether, filtered off with suction and dried. 20 g (91% of theory) of 5-(3-methoxycarbonylphenyl)-1-methyl-3-(pyrazol-1-yl)-4-pyridone of melting point 144° C. are obtained.

reactant | thionyl chloride | 0.33 mole, 24 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3-carboxyphenyl)-1-methyl-3-(pyrazol-1-yl)-4-pyridone sulphuric acid | 0.09 mole, 30 g | C(=O)(O)C=1C=C(C=CC1)C=1C(C(=CN(C1)C)N1N=CC=C1)=O.S(O)(O)(=O)=O
reactant | methanol | 100 ml | CO | CH4O
product | 5-(3-methoxycarbonylphenyl)-1-methyl-3-(pyrazol-1-yl)-4-pyridone | 20 g, 91% | COC(=O)C=1C=C(C=CC1)C=1C(C(=CN(C1)C)N1N=CC=C1)=O | C17H15N3O3
